US05616610
a) (R)-3-(N-Cyclopentylamino)-8-fluoro-5-methoxy-3,4dihydro-2H-1-benzopyran
To a solution of (R)-3-amino-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran (2.5 g, 12 mmol), cyclopentanone (3.3 g, 36 mmol) and HOAc (0.7 g, 12 mmol) in methanol (25 mL ) was NaCNBH3 (2.5 g, 40 mmol) added in portions at room temperature. The solution was stirred at room temperature overnight to give a quantitative yield of the title compound. GC/MS (70 eV) M=265 (30%).

reactant | (R)-3-amino-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran | 12 mmol, 2.5 g | N[C@H]1COC2=C(C1)C(=CC=C2F)OC | C10H12FNO2
reactant | cyclopentanone | 36 mmol, 3.3 g | C1(CCCC1)=O | C5H8O
reactant | HOAc | 12 mmol, 0.7 g | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 40 mmol, 2.5 g | [BH3-]C#N.[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | (R)-3-(N-Cyclopentylamino)-8-fluoro-5-methoxy-3,4dihydro-2H-1-benzopyran | quantitative yield | C1(CCCC1)N[C@H]1COC2=C(C1)C(=CC=C2F)OC | C15H20FNO2
